US04469686
2.23 g of racemic (2-isopropyl-5,5-dimethyl-4-thiazolidinyl)phosphinic acid and 0.77 g of hydroxylamine hydrochloride were dissolved in 15 ml of de-oxygenated water containing 0.48 g of sodium hydroxide and 15 ml of chloroform were added. The mixture was heated under reflux for 1 hour, cooled to room temperature and 3 ml of concentrated hydrochloric acid were added. The chloroform layer was removed and the aqueous layer was extracted with two 15 ml portions of chloroform. The aqueous layer was filtered, evaporated to dryness (twice with ethanol) and the residue was suspended in 15 ml of ethanol and treated with 10 ml of acetone. The mixture was heated under reflux for 0.5 hour, cooled to room temperature and filtered. The filtrate was treated with 1.5 ml of propylene oxide. The mixture was cooled at 0°-5° C. for 2 hours. The resulting solid was collected, washed with isopropanol and dried, there being obtained 1.5 g of DL-(2,2,5,5-tetramethyl-4-thiazolidinyl)phosphinic acid of melting point 190° C. (decomposition).

reactant | racemic (2-isopropyl-5,5-dimethyl-4-thiazolidinyl)phosphinic acid | 2.23 g | C(C)(C)C1SC(C(N1)P(O)=O)(C)C | C8H18NO2PS
reactant | hydroxylamine hydrochloride | 0.77 g | Cl.NO
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 15 ml, 0.48 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | (2,2,5,5-tetramethyl-4-thiazolidinyl)phosphinic acid | CC1(SC(C(N1)P(O)=O)(C)C)C | C7H16NO2PS
